US07790723B2
Analogously to Example 2, reaction of 1.04 g of 3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro4H-pyridazine with 1.08 g of 4-methyl-2-thiophen-2-ylthiazole-5-carbonyl chloride (“CA”) gives the compound 1-[3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazin-1-yl]-1-(4-methyl-2-thiophen-2-ylthiazol-5-yl)methanone (1.54 g).

reactant | 3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro4H-pyridazine | 1.04 g | C(C)OC=1C=C(C=CC1OC)C1=NNCCC1 | C13H18N2O2
reactant | 4-methyl-2-thiophen-2-ylthiazole-5-carbonyl chloride | 1.08 g | CC=1N=C(SC1C(=O)Cl)C=1SC=CC1 | C9H6ClNOS2
product | 1-[3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazin-1-yl]-1-(4-methyl-2-thiophen-2-ylthiazol-5-yl)methanone | 1.54 g | C(C)OC=1C=C(C=CC1OC)C1=NN(CCC1)C(=O)C1=C(N=C(S1)C=1SC=CC1)C | C22H23N3O3S2
